US07125901B2
Step 2: ethyl 4-formyl-1,3-thiazol-2-ylcarbamate
To a mixed solution of ethyl 4-(hydroxymethyl)-1,3-thiazol-2-ylcarbamate (446 mg) in chloroform (30 ml) and methanol (3 ml) was added portionwise manganese (IV) oxide chemicals treated (1.92 g) at room temperature. After the mixture was stirred at the same temperature for 2 hours, then treated manganese (IV) oxide chemicals (250 mg) was added again to the solution, and it was stirred at 50° C. for 3 hours. Manganese (IV) oxide was removed by filtration and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (10 g) using a mixed solvent of hexane and ethyl acetate (4:1). The fractions containing the objective compound were collected and evaporated under reduced pressure to give colorless powder (470 mg, 106.4%).

reactant | ethyl 4-(hydroxymethyl)-1,3-thiazol-2-ylcarbamate | 446 mg | OCC=1N=C(SC1)NC(OCC)=O | C7H10N2O3S
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 3 ml | CO | CH4O
catalyst | manganese (IV) oxide | [O-2].[Mn+4].[O-2]
product | ethyl 4-formyl-1,3-thiazol-2-ylcarbamate | 470 mg, 106.4% | C(=O)C=1N=C(SC1)NC(OCC)=O | C7H8N2O3S
